US04190581
A mixture of 6-aminoquinoxaline(19.2 g) and diethyl ethoxymethylenemalonate(34.8 g) was heated for an hour at 110° C. After filtration, the crystals thus obtained were crystallized from ethanol to give diethyl N-(6-quinoxalyl)aminomethylenemalonate (37.5 g) as pale yellow needles, m.p. 112°-114° C.

reactant | 6-aminoquinoxaline | 19.2 g | NC=1C=C2N=CC=NC2=CC1 | C8H7N3
reactant | diethyl ethoxymethylenemalonate | 34.8 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | diethyl N-(6-quinoxalyl)aminomethylenemalonate | 37.5 g | N1=CC=NC2=CC(=CC=C12)NC=C(C(=O)OCC)C(=O)OCC | C16H17N3O4
